US06943255B2
8-(Ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridine (6.5 g, 22.5 mmol), trifluoroacetic acid (67 mL), and platinum (IV) oxide (0.47 g) are added to a stainless steel Parr vessel, which is then placed under hydrogen pressure (50 psi, 3.4×105 Pa). For the first eight hours, the vessel is flushed with hydrogen every two hours and then maintained under hydrogen pressure (50 psi, 3.4×105 Pa) overnight. The reaction mixture is filtered through a layer of CELITE filter aid, and the filter cake is washed with additional trifluoroacetic acid. The filtrate is concentrated under reduced pressure to yield a light brown oil, which is dissolved in 37% aqueous hydrochloric acid (25 mL). Sodium carbonate is added to this solution until it exhibits pH 12. The resulting solution is extracted with chloroform. The chloroform solution is dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide about 4 g of 2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine as a white solid.

reactant | 8-(Ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridine | 22.5 mmol, 6.5 g | C(C)OCC=1N(C2=C(C=3N(C(=C2)C)N=NN3)N1)CC(C)C | C14H20N6O
reactant | trifluoroacetic acid | 67 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 25 mL | Cl | ClH
catalyst | platinum (IV) oxide | 0.47 g | [Pt](=O)=O
product | 2-(ethoxymethyl)-1-(2-methylpropyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | about 4 g | C(C)OCC=1N(C2=C(C(=NC(=C2)C)N)N1)CC(C)C | C14H22N4O
